US04493843
A solution of 2-(n-heptyl)indole-5-carboxylic acid (18.4 g) in ethanol (80 ml) containing a solution of hydrogen chloride gas in ethanol (110 ml, of strength 34% w/v) was refluxed for 6 hours. The solution was poured into water and the solid was collected and was recrystallised from methanol to give ethyl 2-(n-heptyl)indole-5-carboxylate (10.7 g), in the form of buff crystals, m.p. 66°-69° C.

reactant | 2-(n-heptyl)indole-5-carboxylic acid | 18.4 g | C(CCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C16H21NO2
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | ethanol | 110 ml | C(C)O | C2H6O
product | ethyl 2-(n-heptyl)indole-5-carboxylate | 10.7 g | C(CCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C18H25NO2
